US06352993B1
6-methoxymethyl-5-methyl-2-(4-fluorophenylamino)-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After 4-fluoroaniline(0.43 ml, 4.5 mmol) and triethylamine(0.63 ml, 4.5 mmol) were added to a solution of 6-methoxymethyl-5-methyl-2-chloro-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine (0.9 g, 3 mmol) in dimethylformamide (5 ml), 190 mg of the titled compound was obtained in accordance with the same procedure as in Step 2 of Example 25.

reactant | 4-fluoroaniline | 4.5 mmol, 0.43 ml | FC1=CC=C(N)C=C1 | C6H6FN
reactant | triethylamine | 4.5 mmol, 0.63 ml | C(C)N(CC)CC | C6H15N
reactant | 6-methoxymethyl-5-methyl-2-chloro-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine | 3 mmol, 0.9 g | COCC1=C(C(=NC(=N1)Cl)N1CC2=CC=CC=C2CC1)C | C16H18ClN3O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 6-methoxymethyl-5-methyl-2-(4-fluorophenylamino)-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 190 mg, Yield: 15% | Cl.COCC1=C(C(=NC(=N1)NC1=CC=C(C=C1)F)N1CC2=CC=CC=C2CC1)C | InChI=1S/C22H23FN4O.ClH/c1-15-20(14-28-2)25-22(24-19-9-7-18(23)8-10-19)26-21(15)27-12-11-16-5-3-4-6-17(16)13-27;/h3-10H,11-14H2,1-2H3,(H,24,25,26);1H
